US07989457B2
Step D. (4′-Trifluoromethyl-biphenyl-4-yl)-acetic acid
Concentrated hydrochloric acid (37%, 1 mL) is added to a solution of (4′-trifluoromethyl-biphenyl-4-yl)-acetonitrile (0.290 g, 1.11 mmol) in [1,4]dioxane (2 mL), heated at 110° C. for six hours, cooled to room temperature and adjust pH to 3 using 5.0 N sodium hydroxide, extracted with ethyl acetate three times. Organics are dried over sodium sulfate, filtered and concentrated to provide 0.280 g (11.0 mmol, 90%) of title compound.

reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | (4′-trifluoromethyl-biphenyl-4-yl)-acetonitrile | 1.11 mmol, 0.290 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC#N)(F)F | C15H10F3N
reactant | sodium hydroxide | 5.0 N | [OH-].[Na+]
reactant | [1,4]dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (4′-Trifluoromethyl-biphenyl-4-yl)-acetic acid | 11.0 mmol, 0.280 g, 90% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)O)(F)F | C15H11F3O2
